US07511046B2
Preparation of (R)-3-[3-(2-methyloxiranylmethoxy)phenyl]thieno[2,3-d]isoxazole (Compound 11, Scheme II)
Add potassium t-butoxide (0.67 g, 0.006 mol) in small portions to a chilled (0° C.) stirred solution of toluene-4-sulfonic acid (S)-2-hydroxy-2-methyl-3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl ester (2.45 g, 0.00533 mol) and tetrahydrofuran (40 mL). Stir one hour at 0° C. and partition between ethyl acetate and water. Separate the organic phase, dry (MgSO4), filter, and concentrate in vacuo. Recrystallize the residue from ether-hexane to give the title compound (1.33 g, 87% yield), m.p. 84-85° C., MS (chemical ionization, CH4) MH+ 288.

reactant | potassium t-butoxide | 0.006 mol, 0.67 g | CC(C)([O-])C.[K+]
reactant | toluene-4-sulfonic acid (S)-2-hydroxy-2-methyl-3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl ester | 0.00533 mol, 2.45 g | O[C@](COS(=O)(=O)C1=CC=C(C=C1)C)(COC1=CC(=CC=C1)C1=NOC2=C1SC=C2)C | C22H21NO6S2
reactant | CH4 | C | CH4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (R)-3-[3-(2-methyloxiranylmethoxy)phenyl]thieno[2,3-d]isoxazole | 1.33 g, 87% yield | C[C@]1(OC1)COC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C15H13NO3S
